US07470679B2
(2-Amino-4,5-difluorophenyl)methanol
2-Amino-4,5-difluorobenzoic acid (5.37 g, 31.0 mmol) in THF(50 mL) was dropwise added to the suspension on LAH (1.65 g, 43.5 mmol) in THF (15 mL) at room temperature under N2 over 10 min. The resulting suspension was stirred at room temperature for 1 hr. Then the mixture was cooled down to 0° C., quenched with saturated Na2SO4 (100 mL), and extracted with Et2O (2×100 mL), the combined organic layers were washed with brine (60 mL), dried over MgSO4, and concentrated on rotary vacuum to afford the expected crude product as a brown solid, which was pure enough to be used in next step without further purification. 1H NMR (400 MHz, CDCl3) δppm 4.07 (s, 1H), 4.56 (s, 2H), 6.46 (dd, J=11.71, 6.92 Hz, 1H), 6.87 (dd, J=10.58, 8.56 Hz, 1H); Mass spec. 160.04 (MH+), Calc. for C7H7F2NO 159.05.

reactant | 2-Amino-4,5-difluorobenzoic acid | 31.0 mmol, 5.37 g | NC1=C(C(=O)O)C=C(C(=C1)F)F | C7H5F2NO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (2-Amino-4,5-difluorophenyl)methanol | NC1=C(C=C(C(=C1)F)F)CO | C7H7F2NO
